US07897780B2
5 ml of trifluoroacetic acid are added to a solution consisting of 2.8 g (9.3 mmol) of tert-butoxy[2-(2-trimethylsilanylethyl)thiophen-3-yl]carbamate (IX-1) in 50 ml of dichloromethane. The reaction solution is stirred at room temperature for 3 h and then concentrated under reduced pressure. Column chromatography (gradiant cyclohexane/ethyl acetate 4:1 to 1:1) gives 1.2 g (65% of theory) of 2-(2-trimethylsilanylethyl)thiophen-3-ylamine [log P (pH 2.3)=1.78].

reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butoxy[2-(2-trimethylsilanylethyl)thiophen-3-yl]carbamate | 9.3 mmol, 2.8 g | C(C)(C)(C)ON(C([O-])=O)C1=C(SC=C1)CC[Si](C)(C)C
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(2-trimethylsilanylethyl)thiophen-3-ylamine | 1.2 g, pH 2.3, 65% | C[Si](CCC=1SC=CC1N)(C)C | C9H17NSSi
